US06965033B2
To a solution of 1 mmol of 2-Amino-4,7-dimethoxy-6-bromo benzothiazole in CH2Cl2 was added 2.2 mmol of BBr3 in CH2Cl2 at 0° C. for 16 h. Aqueous work-up and chromatography gave 2-amino-4-hydroxy-6-bromo-7-methoxy benzothiazole.

reactant | 2-Amino-4,7-dimethoxy-6-bromo benzothiazole | 1 mmol | NC=1SC2=C(N1)C(=CC(=C2OC)Br)OC | C9H9BrN2O2S
reactant | BBr3 | 2.2 mmol | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-amino-4-hydroxy-6-bromo-7-methoxy benzothiazole | NC=1SC2=C(N1)C(=CC(=C2OC)Br)O | C8H7BrN2O2S
